US08227615B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(cyclohexylmethyl)pyridin-2-yl)cyclopropanecarboxamide was synthesized using the procedure of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-benzylpyridin-2-yl)cyclopropanecarboxamide by reacting 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromopyridin-2-yl)cyclopropanecarboxamide with (cyclohexylmethyl)zinc(II) bromide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-benzylpyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)CC2=CC=CC=C2 | C23H20N2O3
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromopyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)Br | C16H13BrN2O3
reactant | (cyclohexylmethyl)zinc(II) bromide | [Br-].C1(CCCCC1)C[Zn+]
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(cyclohexylmethyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)CC2CCCCC2 | C23H26N2O3
